US04017492
In the manner given in Example 3, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine was stirred with α-oxobutyric acid at room temperature to give 7-chloro-2-[(1-carboxypropylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | α-oxobutyric acid | O=C(C(=O)O)CC | C4H6O3
product | 7-chloro-2-[(1-carboxypropylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CC)C(=O)O)C2=CC=CC=C2)C1 | C19H17ClN4O2
